US06949579B2
2.9 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 1 g of N-[6-[3-(phenylmethoxy)phenyl]-1-[[2-(trimethylsilyl)ethoxy]-methyl]-1H-indazol-3-yl]butanamide, described previously, in 20 cm3 of tetrahydrofuran, and the mixture is refluxed for 18 hours. The reaction medium is diluted with 100 cm3 of ethyl acetate and the organic phase is washed successively with 50 cm3 of saturated sodium hydrogen carbonate solution, with 2×50 cm3 of water and with 50 cm3 of saturated sodium chloride solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and concentrated under reduced pressure (2 kPa; 50° C.). The crude product obtained is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with a cyclohexane/ethyl acetate gradient (70/30 to 40/60 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.); 0.43 g of N-[6-[3-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide is obtained in the form of a white powder.

reactant | tetrabutylammonium fluoride | 2.9 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[6-[3-(phenylmethoxy)phenyl]-1-[[2-(trimethylsilyl)ethoxy]-methyl]-1H-indazol-3-yl]butanamide | 1 g | C1(=CC=CC=C1)COC=1C=C(C=CC1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C30H37N3O3Si
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
product | N-[6-[3-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide | 0.43 g | C1(=CC=CC=C1)COC=1C=C(C=CC1)C1=CC=C2C(=NNC2=C1)NC(CCC)=O | C24H23N3O2
